US08647882B2
d. Conversion to (S)-3-[(S)-3-(3,5-dinitrobenzamido)-3-phenylpropanamido]-3-phenylpropionic Acid (3-(3,5-dinitrobenzoyl)-(S)-β-phenylalanyl-(S)-β-phenylalanine)
5.65 g of (S)-3-amino-3-phenylpropionic acid were suspended in 70 ml of water, the pH of the suspension was adjusted to 10.5-11 by adding sodium hydroxide solution, and 70 ml of tetrahydrofuran were added. The mixture was cooled to 0-5° C. in an icebath and 13 g of 2,5-dioxopyrrolidin-1-yl(S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate were added in portions with stirring over a period of 15 min. On completion of addition, the pH of the reaction mixture was kept between 9-9.5 by adding sodium hydroxide solution. On attainment of a constant pH with virtually full conversion (HPLC monitoring; <0.5 area % of reactant), the solution was diluted to a volume of about 800 ml with water, a pH of 1.5-2 was established by addling 4 N hydrochloric acid and the mixture was stirred for a further 30 min. The solid was filtered off with suction, washed with water and dried at 50° C. under reduced pressure. The dried solid was digested in 250 ml of tetrahydrofuran at 40° C. for 20 min, the suspension was cooled and the solid (product fraction 1) was filtered off with suction. The mother liquor was concentrated at a water bath temperature of 40° C. to a volume of about 70-80 ml, the resulting suspension was cooled to room temperature, and the solid (product fraction 2) filtered off with suction. The product fractions were combined and dried at 50° C. under reduced pressure. The yield was 11.1 g; HPLC purity >99.5 area %; 1H NMR (DMSO) δ (ppm): 2.64 (d, 2H), 2.77 (m, 2H), 5.15 (m, 1H), 5.52 (m, 1H), 7.10-7.20 (m, 5H), 7.25 (t, 1H), 7.31 (t, 2H), 7.39 (d, 2H), 8.44 (d, 1H), 8.95 (m, 1H), 9.01 (m, 2H), 9.53 (d, 1H), 12.17 (s, 1H, CO2H).

reactant | (S)-3-amino-3-phenylpropionic acid | 5.65 g | N[C@@H](CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,5-dioxopyrrolidin-1-yl(S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate | 13 g | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)ON2C(CCC2=O)=O)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C20H16N4O9
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | 70 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (S)-3-[(S)-3-(3,5-dinitrobenzamido)-3-phenylpropanamido]-3-phenylpropionic Acid | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)N[C@@H](CC(=O)O)C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C25H22N4O8
